US04239903
A mixture of 7.4 g of anhydrous aluminum chloride and 100 ml of anhydrous methylene chloride was cooled at -50° C. and to the mixture was added dropwise a solution of 5.9 g of 3,4-dimethoxyphenylacetyl chloride and 30 ml of anhydrous methylene chloride. Subsequently, while stirring the solution vigorously, ethylene was forced fed into the solution for 15 minutes. Then, after stirring the solution for 3.5 hours at room temperature (about 25° C.), the reaction solution was cooled in an ice-water bath and 40 ml of water was added dropwise thereto. The methylene chloride layer was washed with a 2 N-HCl aqueous solution, water, a saturated sodium bicarbonate aqueous solution and water in order, dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain a oily product. To the oily product were added 25 ml of a 19% ethylamine-ethanol solution, 10 ml of absolute ethanol and 0.25 g of platinum oxide, and the solution was catalytically hydrogenated. After take up of hydrogen had been completed, the platinum oxide catalyst was removed by filtration and the filtrate was concentrated under reduced pressure. To the residue obtained was added an ethanolic solution of hydrogen chloride having a concentration of about 18% and then the resulting solution was concentrated under reduced pressure. After adding acetone to the residue, the crystals formed were collected by filtration and dissolved in a 2 N-NaOH aqueous solution. After extraction with chloroform, the chloroform layer was washed with water, dried over anhydrous potassium hydroxide and concentrated under reduced pressure. The residue obtained was purified through alumina column chromatography. To the purified reaction solution was added an ethanolic solution of hydrogen chloride having a concentration of about 18% and the solution was concentrated under reduced pressure to obtain crystals. The crystals were recrystallized from a mixed solution of absolute ethanol and isopropyl alcohol to obtain 1.12 g of N-ethyl-6,7-dimethoxy-1,2,3,4-tetrahydro-2-naphthylamine hydrochloride as colorless needles having a melting point of 246°-248° C. (decomp.).

reactant | aluminum chloride | 7.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3,4-dimethoxyphenylacetyl chloride | 5.9 g | COC=1C=C(C=CC1OC)CC(=O)Cl | C10H11ClO3
reactant | ethylene | C=C | C2H4
reactant | ethylamine ethanol | C(C)N.C(C)O
reactant | hydrogen | [H][H] | H2
reactant | hydrogen chloride | Cl | ClH
catalyst | platinum oxide | 0.25 g | [Pt]=O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-ethyl-6,7-dimethoxy-1,2,3,4-tetrahydro-2-naphthylamine hydrochloride | 1.12 g | Cl.C(C)NC1CC2=CC(=C(C=C2CC1)OC)OC | InChI=1S/C14H21NO2.ClH/c1-4-15-12-6-5-10-8-13(16-2)14(17-3)9-11(10)7-12;/h8-9,12,15H,4-7H2,1-3H3;1H
